US07696248B2
Step D. 3-{4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid
3-{4-[1-(4′-tert-butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester (30 mg) is taken into MeOH (10 mL), followed by the addition of 5N NaOH (1 mL). The reaction is stirred for 4 h, diluted with EtOAc, washed with aqueous HCl, and brine. The organic portion is dried over MgSO4, and concentrated to afford 16 mg of the titled compound. MS (ES): 487.3 [M+H]+.

reactant | 3-{4-[1-(4′-tert-butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | 30 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C32H40N2O3
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaOH | 5N, 1 mL | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid | 16 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CC(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C31H38N2O3
